US07838498B2
Preparation of methyl 2-bromo-5-chloro-4-(4-ethylbenzoyl)benzoate (Intermediate E)
To a solution of 5-bromo-2-chloro-4-(methoxycarbonyl)benzoic acid (1.21 g, 4.15 mmol) in dry dichloromethane (22.5 mL) was added dropwise oxalyl chloride (0.43 mL, 4.96 mmol) followed by N,N-dimethylformamide (1 mL). After being stirred for 2 h at room temperature, the reaction mixture was evaporated and the residue was dissolved in dry dichloromethane (20 mL) at room temperature under agron. After cooling to −5° C., ethylbenzene (0.46 g, 4.35 mmol) was added. Then AlCl3 (1.72 g, 12.8 mmol) was added portionwise and the reaction temperature was kept between −5° C. and 0° C. After being stirred at the same temperature for two hours, the reaction mixture was poured onto ice water and extracted with dichloromethane (100 mL). The combined organic layers were washed with 1 M HCl (60 mL), water (30 mL) and brine (60 mL), and dried over anhydrous Na2SO4 Concentration under reduced pressure provided the title compound as a yellow solid. Yield: 1.37 g (87%). 1H-NMR (CDCl3, 300 MHz): δ 7.89 (s, 1H), 7.72 (d, J=2.0 Hz, 1H), 7.70 (d, J=2.0 Hz, 1H), 7.64 (s, 1H), 7.33 (s, 1H), 7.30 (s, 1H), 3.98 (s, 3H), 2.70 (q, J=7.8 Hz, 2H), 1.27 (t, J=7.8 Hz, 3H).

reactant | 5-bromo-2-chloro-4-(methoxycarbonyl)benzoic acid | 4.15 mmol, 1.21 g | BrC=1C(=CC(=C(C(=O)O)C1)Cl)C(=O)OC | C9H6BrClO4
reactant | oxalyl chloride | 4.96 mmol, 0.43 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethylbenzene | 4.35 mmol, 0.46 g | C(C)C1=CC=CC=C1 | C8H10
reactant | AlCl3 | 12.8 mmol, 1.72 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 22.5 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | methyl 2-bromo-5-chloro-4-(4-ethylbenzoyl)benzoate | BrC1=C(C(=O)OC)C=C(C(=C1)C(C1=CC=C(C=C1)CC)=O)Cl | C17H14BrClO3
